US07700723B2
Five ml of one overnight culture of E. coli BL21 (DE3)/pET21b-SNDHaiHis in LB with carbenicillin 50 μg/ml was inoculated into 200 ml of the same medium. The cells were cultivated at 230 rpm at 37° C. for 2 h, then induced with 1 mM IPTG and continued to be cultivated at 230 rpm at 25° C. for 3 h. The resulting culture was centrifuged and washed twice with saline and the cell pellet was resuspended in 2 ml of water. The cells were used for resting cell reaction with the reaction mixture (500 μl in 5 ml tube) containing cells at OD600=10, 1% sorbosone monohydrate, 5 μM PQQ, 5 mM MgCl2, 0.3% NaCl, and 1% CaCO3 conducted at 30° C. for 15 h. 0.14 g/L of L-ascorbic acid was produced after incubation for 15 h. When the resting cell reaction was done with 1 μM PQQ (the other conditions were same as those described above), 0.05 g/L of L-ascorbic acid was produced after incubation for 3 h.

reactant | carbenicillin | CC1([C@@H](N2[C@H](S1)[C@@H](C2=O)NC(=O)C(C=3C=CC=CC3)C(=O)O)C(=O)O)C | C17H18N2O6S
reactant | IPTG | 1 mM | CC(C)S[C@H]1[C@@H]([C@H]([C@H]([C@H](O1)CO)O)O)O | C9H18O5S
reactant | MgCl2 | 5 mM | [Mg+2].[Cl-].[Cl-]
reactant | NaCl | [Na+].[Cl-]
reactant | CaCO3 | C(=O)([O-])[O-].[Ca+2]
product | L-ascorbic acid | O=C1C(O)=C(O)[C@H](O1)[C@@H](O)CO | C6H8O6
